US08748434B2
b) 6-Chloro-4-o-tolyl-pyridazin-3-ylamine
The title compound was prepared in analogy to example 1, intermediate b, from 4-bromo-6-chloropyridazin-3-amine (CAS RN 446273-59-2) and o-tolylboronic acid (CAS RN 16419-60-6). Light brown solid (41%). MS (ESI+): m/z=220.064 ([M+H]+).

reactant | 4-bromo-6-chloropyridazin-3-amine | BrC1=C(N=NC(=C1)Cl)N | C4H3BrClN3
reactant | o-tolylboronic acid | C1(=C(C=CC=C1)B(O)O)C | C7H9BO2
product | 6-Chloro-4-o-tolyl-pyridazin-3-ylamine | ClC1=CC(=C(N=N1)N)C1=C(C=CC=C1)C | C11H10ClN3
